US07091227B2
N-Ethyl-N′-(8-methyl-5,8-dihydro-4H-[1,3]thiazolo[4,5-g]indol-2-yl)urea
To a suspension of N-(5,8-dihydro-4H-[1,3]thiazolo[4,5-g]indol-2-yl)-N′-ethylurea in toluene is added DDQ (1.1 eq.). The reaction mixture is stirred at about 45° C. for about 4 hrs. The reaction mixture is pumped down and the crude material is purified by preparative HPLC.

reactant | N-(5,8-dihydro-4H-[1,3]thiazolo[4,5-g]indol-2-yl)-N′-ethylurea | S1C(=NC=2CCC=3C=CNC3C21)NC(=O)NCC | C12H14N4OS
reactant | DDQ | 1.1 eq. | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-Ethyl-N′-(8-methyl-5,8-dihydro-4H-[1,3]thiazolo[4,5-g]indol-2-yl)urea | C(C)NC(=O)NC=1SC2=C(CCC=3C=CN(C23)C)N1 | C13H16N4OS
